US04968698
1A. 3-Butyloxybenzaldehyde
3-Hydroxybenzaldehyde (61 g) was added over 40 minutes to a suspension of sodium hydride (13.0 g) in dimethylformamide (700 cm3), the temperature of the reaction mixture being kept below 10° C. by means of a CO2 /oxitol bath. After stirring for 35 minutes, 1-bromobutane (73 g) was added dropwise over one hour and the mixture was then stirred at room temperature for 2.5 hours followed by heating at 85° C. for a further 2.5 hours. The resulting mixture was poured into ice water (1000 cm3) and was allowed to stand overnight before extracting with 40°-60° petrol/ether (3:1) (5×200 cm3). The combined organic layers were washed with 1M sodium hydroxide solution containing sodium chloride, dried over sodium sulphate, treated with activated charcoal, filtered and then evaporated down to give a golden brown mobile oil (79.7 g).

reactant | 3-Hydroxybenzaldehyde | 61 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | sodium hydride | 13.0 g | [H-].[Na+]
reactant | 1-bromobutane | 73 g | BrCCCC | C4H9Br
solvent | dimethylformamide | 700 cm3 | CN(C=O)C | C3H7NO
product | 3-Butyloxybenzaldehyde | 79.7 g | C(CCC)OC=1C=C(C=O)C=CC1 | C11H14O2
